US06949542B2
7-Methyl-4-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester (Example J20) (145 mg, 0.5 mmol) and 3-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester (Example K54) (180 mg, 0.55 mmol) according to the general procedure M and subsequent treatment of the crude product according to the general procedure N. Obtained as a light yellow solid (166 mg).

reactant | (2-amino-5-methyl-4-trifluoromethyl-phenyl)-carbamic acid tert-butyl ester | 0.5 mmol, 145 mg | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)C(F)(F)F)N)=O | C13H17F3N2O2
reactant | 3-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-3-oxo-propionic acid tert-butyl ester | 0.55 mmol, 180 mg | C(C)(C)(C)OC(CC(=O)C1=CC(=CC=C1)C1=NC=NC(=C1)NC)=O | C18H21N3O3
product | 7-Methyl-4-[3-(6-methylamino-pyrimidin-4-yl)-phenyl]-8-trifluoromethyl-1,3-dihydro-benzo[b][1,4]diazepin-2-one | CC1=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=NC=NC(=C2)NC)=O)C=C1C(F)(F)F | C22H18F3N5O
